US07005432B2
4-Bromo-1-fluoro-2-vinylbenzene
To a suspension of methyl(triphenyl)-phosphonium bromide (15.5 g, 43 mmol) in THF (60 ml) were added at −78° C. BuLi (27 ml, 1.6 M in hexane, 43.2 mmol) and 5-bromo-2-fluoro-benzaldehyde (877 mg, 43 mmol). The reaction mixture was stirred 18 hours at r.t. After work-up and purification by chromatography (hexane/ethyl acetate 9/1 to 4/1) 5.7 g (28.5 mmol, 72%) of the title compound were obtained, 1H-NMR (300 MHz, CDCl3): δ=7.62 (dd, 1H), 7.26-7.36 (m, 1H), 6.93 (t, 1H), 6.79 (dd, 1H), 5.42 (d, 1H).

reactant | BuLi | 43.2 mmol, 1.6 M, 27 ml | [Li]CCCC
reactant | 5-bromo-2-fluoro-benzaldehyde | 43 mmol, 877 mg | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
catalyst | methyl(triphenyl)-phosphonium bromide | 43 mmol, 15.5 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 4-Bromo-1-fluoro-2-vinylbenzene | 28.5 mmol, 5.7 g, 72% | BrC1=CC(=C(C=C1)F)C=C | C8H6BrF
